US08293777B2
Step C: methyl (1R*,3S*,4S*)-3-methoxy-4-(nitrooxy)cyclopentanecarboxylate
To an acetic anhydride (10 mL) solution of nitric acid (5.0 mL, 78 mmol) at 0° C. was added methyl (1R*,3R*,4R*)-3-hydroxy-4-methoxycyclopentanecarboxylate (1.0 g, 5.7 mmol). After 2 hours, the reaction mixture was slowly added to a saturated solution of sodium hydrogen carbonate solution. The aqueous layer was extracted with ethyl acetate (3×100 mL), and the combined organic extracts were washed with brine, dried (magnesium sulfate), and concentrated in vacuo to afford the crude product. The residue was purified by column chromatography on silica gel, eluting with 5/95→25/75 ethyl acetate/hexanes to afford the title compound as a colorless liquid. 1H NMR (500 MHz, CDCl3) δ 1.98-2.10 (m, 2H), 2.36 (ddd, J=6.3, 8.7, 13.9 Hz, 1H), 2.51 (ddd, J=6.5, 8.9, 15.2 Hz, 1H), 2.97 (quintet, J=8.5 Hz, 1H), 3.37 (s, 3H), 3.71 (s, 3H), 3.80-3.85 (m, 1H), 5.28 (td, J=2.4, 6.5 Hz, 1H). Chromatography of the racemic mixture over Chiralcel OD column, eluting with isopropanol/heptane, afforded the separate enantiomers, with the (1S,3R,4R)-stereoisomer as the faster eluting peak and the (1R,3S,4S)-stereoisomer as the slower eluting peak.

reactant | nitric acid | 78 mmol, 5.0 mL | [N+](=O)(O)[O-] | HNO3
reactant | methyl (1R*,3R*,4R*)-3-hydroxy-4-methoxycyclopentanecarboxylate | 5.7 mmol, 1.0 g | O[C@@H]1C[C@H](C[C@H]1OC)C(=O)OC | C8H14O4
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | acetic anhydride | 10 mL | C(C)(=O)OC(C)=O | C4H6O3
product | methyl (1R*,3S*,4S*)-3-methoxy-4-(nitrooxy)cyclopentanecarboxylate | CO[C@H]1C[C@H](C[C@@H]1O[N+](=O)[O-])C(=O)OC | C8H13NO6
